US06747037B1
7-[2-oxo-6-((E)-3-oxo-oct-1-enyl)-piperidin-1-yl]-hept-5-ynoic acid
Rabbit liver esterase (134 units/mg, 3 mg) was added to a solution of 7-[2-oxo-6-((E)-3-oxo-oct-1-enyl)-piperidin-1-yl]-hept-5-ynoic acid methyl ester (18 mg, 0.45 mmol) in acetonitrile (0.3 mL) and pH 7.2 phosphate buffer (3.0 mL). After 18.5 h, acetonitrile (10 mL) was added and the reaction mixture was concentrated to dryness in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→3% MeOH/CH2Cl2, gradient) afforded 17 mg (97%) of the title compound.

reactant | 7-[2-oxo-6-((E)-3-oxo-oct-1-enyl)-piperidin-1-yl]-hept-5-ynoic acid methyl ester | 0.45 mmol, 18 mg | COC(CCCC#CCN1C(CCCC1\C=C\C(CCCCC)=O)=O)=O | C21H31NO4
solvent | acetonitrile | 0.3 mL | C(C)#N | C2H3N
solvent | phosphate | 3.0 mL, pH 7.2 | P(=O)([O-])([O-])[O-]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 7-[2-oxo-6-((E)-3-oxo-oct-1-enyl)-piperidin-1-yl]-hept-5-ynoic acid | 17 mg, 97% | O=C1N(C(CCC1)\C=C\C(CCCCC)=O)CC#CCCCC(=O)O | C20H29NO4
